Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
confusion
 
Major Surgical or Invasive Procedure:
N/A

 
History of Present Illness:
EU Critical ___ (AKA ___ is a ___ man with a
history of hypertension,?bipolar disorder, presents to the ED
after being found confused and wandering aimlessly after causing
a minor car accident.

The patient is not able to provide meaningful history.  
Ancillary
history is obtained from EMS reports as well as his wife.  Per
the wife, the patient was otherwise in his usual state of health
at least until this morning.  They had been traveling from ___, for her to be attending a conference.  The patient was
able to drive last ___ into ___ without issues.  For the
past several days, he had several episodes of nausea and
vomiting, without fevers.  Yesterday, he told his wife that he
was not feeling well, but did not go into specifics.  This
morning they woke up, and was able to have breakfast together. 
She then left for to attend the conference.  In the interim, the
patient decided to go to the auto mechanics further car.  At 
some
point, he left a note notifying his wife that he would be taking
the car.  The wife attended the conference the entire day, came
back at 6:30 ___.  She did not find them in their hotel room.  He
did not return to the hotel room, and around 9:00, the wife
called the home messaging machine, and found that the police had
left a message that they had found her husband being involved in
a minor accident and was being admitted to the hospital in
___. 

The wife denies any recent change in medications, no recent
cognitive decline, is functionally independent at home, no
constitutional symptoms, no REM behavior disorder.  No recent
falls or head strikes.

From EMS reports, the patient was found in a parking lot, after
being involved in a car accident wherein he had driven his car
slowly into a parked car.  He had then gotten out of the car was
slowly walking around.  According to reports, he was not
responding to questions, and bystanders called EMS.  Fingerstick
at the scene was 154.  Vital signs in the field were notable for
a heart rate of 120, tachypnea, appearing confused and aphasic,,
but no unilateral motor weakness was noted.  He was transferred
to ___ for further workup. 

On arrival, he was found to have a respiratory alkalosis, was
afebrile, lactate of 3.8.  CT of the head showed a possible
chronic subdural hematoma on the left, prompting a neurosurgery
evaluation.  Per their review, there was no concern for subdural
hemorrhage or hygroma.
 
 
Past Medical History:
HTN
?hx of late onset bipolar disorder, on unknown medication. no
personal history of cancer
Chronic hyponatremia

 
Social History:
___
Family History:
no family history of seizure, malignancy, stroke

 
Physical Exam:
ADMISSION PHYSICAL EXAM 
=======================
Vitals:  T: 98.2 HR: 99-120 BP: 121/97 - 184/97 RR: ___   
SaO2:
90% on room air
General:  NAD, appears mildly disheveled with long hair.
HEENT: NCAT,  no oropharyngeal lesions, mild neck stiffness but
no clear meningeal signs
___: Tachycardic, no M/R/G
Pulmonary: Comfortable on room air
Abdomen: Soft, NT, ND, +BS, no guarding
Extremities: Warm, no edema

Neurologic Examination:
- Mental status: The patient was awake, tracking the examiner. 
He was oriented to himself, and hospital.  He could not identify
the state that he was in.  He thought it was the year ___. 
Could not name month or date.  He was grossly inattentive, and
needed very frequent redirection.  Unable to relate any history. 

Speaks in mostly ___ word phrases, with frequent neologisms and
paraphasic errors.  Naming was severely impaired initially,
unable to name pen or thumb.  Reevaluation 1 hour later, showed
mild improvement in naming to high frequency objects only. 
Repetition was relatively intact.  Initially he was able unable
to recognize his own wife, called her a ___.  He was able to
follow simple commands both axially and appendicularly.  Was
unable to follow complex commands.  Writing and reading were
unable to be tested at this time.  Normal prosody.  No
left-to-right confusion.

- Cranial Nerves: PERRL 2.5->2 brisk. VF full to blink to 
threat.
EOMI, no nystagmus, or ocular myoclonus. No facial movement
asymmetry.  Palate elevation symmetric. Tongue midline.

- Sensorimotor:  Normal bulk, diffusely increased tone in the
arms and legs.  Bilateral hand closure without pronation or
drift.  Unable to follow instructions for asterixis no clear
tremor, or myoclonus.  Unable to perform detailed 
confrontational
strength testing, however appears to be grossly full and
symmetric bilaterally.  He displayed restless movements of the
bilateral feet.
 
- Reflexes: Positive pectoral jerks bilaterally, bilateral
crossed adductors, and ___ beats of clonus at the ankles
bilaterally.
   [Bic] [Tri] [___] [Quad] 
 L  3     2+     3       2+       
 R  3     2+     3       2+        
Plantar response mute bilaterally 

- Coordination: No dysmetria with finger to nose testing
bilaterally.  Trace intention tremor bilaterally.

- Gait: Deferred

DISCHARGE PHYSICAL EXAM 
=======================
General: NAD, appears mildly disheveled with long hair.  
 HEENT: NCAT, no oropharyngeal lesions, mild neck stiffness but  

 no clear meningeal signs  
 ___: Tachycardic, no M/R/G  
 Pulmonary: Comfortable on room air  
 Abdomen: Soft, NT, ND, +BS, no guarding  
 Extremities: Warm, no edema  
 Neurologic Examination:  
 - Mental status: Aware, tracking, oriented to month, self, 
hospital, age and reason that he is here. Could name MOW 
backwards but with great effort and delayed thinking. Naming and 
repetition intact. Recognizes family at bedside. Able to follow 
both simple and appendicular commands. No left-right confusion.  

 - Cranial Nerves: PERRL 2.5->2 brisk. VF full to blink to 
threat.  
 EOMI, no nystagmus, or ocular myoclonus. No facial movement  
 asymmetry. Palate elevation symmetric. Tongue midline.  
 - Sensorimotor: Normal bulk, diffusely increased tone in the  
 arms and legs. Bilateral hand closure without pronation or  
 drift. No asterixis, tremor, myoclonus.  
 - Reflexes: Positive pectoral jerks bilaterally, bilateral  
 crossed adductors, and ___ beats of clonus at the ankles  
 bilaterally.  
 [Bic] [Tri] [___] [Quad]  
 L 3 2+ 2* 2+  
 R 3 2+ 2* 2+  
 Plantar response mute bilaterally  
 - Coordination: No dysmetria with finger to nose testing  
 bilaterally. Trace intention tremor bilaterally.  
 - Gait: Deferred  

 
Pertinent Results:
ADMISSION LABS: 
==============
LP results: Protein of 30, glucose of 71, 1 WBC, 0 RBCs
Urine and serum tox screen were negative
Urinalysis was unremarkable
Initial VBG showed respiratory alkalosis with pH of 7.56, PCO2 
of
28
Lactate was 3.8
Troponin was normal, creatinine was 1.2, sodium was 133,
potassium 3.1
LFTs were within normal limits.  CK was 39.
WBC of 11.1, hemoglobin of 13.1, platelet of 385, coags were
within normal limits
 
IMAGING:
========
CT Abd/pelv:
1. Fluid-filled nondilated small bowel loops are nonspecific, 
but
can be seen in enteritis.
2. 1.4 x 1.3 cm indeterminate right adrenal nodule. A dedicated
adrenal CT can be obtained for further characterization.
3. Diffuse thickening of the bladder wall may be related to
chronic bladder outlet obstruction, however bladder malignancy
should also be considered. Correlate with cystoscopy.
4. Large, lobulated right hepatic lobe cyst.

CT head
1. Slight asymmetry of the extra-axial CSF space overlying the
left frontoparietal convexity is equivocal for a chronic 
subdural
hematoma or hygroma.
2. No evidence of acute hemorrhage or infarct.

+ EEG: 
IMPRESSION: This is an abnormal video-EEG monitoring session 
secondary to an 
attenuated background with periods of focal slowing on the left. 
There are no 
epileptiform discharges or seizures detected during this 
monitoring session. 
Overall this tracing is unchanged from the day before. 

+ ___ MRI head
There is mild global parenchymal volume loss.  Areas of signal 
within the 
subcortical and periventricular white matter on T2/FLAIR 
nonspecific, but 
likely reflect the sequela of mild chronic small vessel disease. 
 There is no 
evidence of infarction, hemorrhage, or mass effect.  The normal 
flow voids 
within the major intracranial vessels are preserved. 
  
There are bilateral lens implants.  The orbits are otherwise 
unremarkable. 

INTERVAL LABS:
==============
___ 09:35AM BLOOD %HbA1c-5.6 eAG-114
___ 09:35AM BLOOD TSH-1.7
 
Brief Hospital Course:
This is a ___ man with bipolar disorder who was admitted 
for work-up of an acute onset altered mental status, and 
aphasia. 

#Acute toxic metabolic encephalopathy
#Aphasia
#?Seizure
Stroke work-up (CT, MRI) and CNS infectious work-up was negative 
(LP clear) although he did have a leukocytosis.  MRI was 
negative for acute stroke; LP was clear; Video continuous EEG 
showed: focal slowing with attenuation on the left; no 
epileptiform discharges. He was started on lamotrigine for 
seizure prophylaxis. His mental status returned to baseline per 
his wife on discharge. Etiology may be underlying mild cognitive 
decline vs. dementia and acute delirium in the setting of the 
car accident. 

TRANSITIONAL ISSUES: 
====================
[] Follow-up with PCP in ___ to be referred to neurologist 
for management of seizures and lamictal.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. ARIPiprazole 2  mg PO DAILY 
2. Escitalopram Oxalate 10 mg PO DAILY 

 
Discharge Medications:
1.  LamoTRIgine 25 mg PO DAILY Duration: 2 Weeks 
RX *lamotrigine 25 mg 1 tablet(s) by mouth daily Disp #*14 
Tablet Refills:*0 
2.  LamoTRIgine 50 mg PO DAILY Duration: 2 Weeks 
Take this after you are finished taking 25mg daily for 2wks. 
Then, your MD ___ increase the dose. 
RX *lamotrigine 25 mg 2 tablet(s) by mouth daily Disp #*28 
Tablet Refills:*0 
3.  ARIPiprazole 2  mg PO DAILY  
4.  Escitalopram Oxalate 10 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Seizure

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to the hospital because you had an episode of 
confusion that was concerning for a stroke. However, we 
performed MR imaging of your brain and found no evidence that 
you suffered an acute ischemic stroke. We were initially 
concerned that you may have an infection of your brain. To 
address this,we performed a lumbar puncture and found no 
evidence of a viral or bacterial infection in your brain.

An EEG showed slowing and decreased amplitude (attenuation) on 
the left side of your brain; this could suggest that you had a 
seizures, and you are at risk for future seizures. Therefore, we 
are starting you on a seizure medication called lamotrigine 
(Lamictal). This will also help stabilize your mood. Titration 
takes several weeks to minimize risk of develop­ing a rash 
(e.g., ___ syndrome); please seek medical care 
immediately if you develop a rash.

It was a pleasure meeting you!
Your ___ team

Please follow up with your primary care physician ___ ___ 
weeks.

If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:
- Sudden partial or complete loss of vision
- Sudden loss of the ability to speak words from your mouth
- Sudden loss of the ability to understand others speaking to 
you
- Sudden weakness of one side of the body
- Sudden drooping of one side of the face
- Sudden loss of sensation of one side of the body

Sincerely,
Your ___ Neurology Team
 
Followup Instructions:
___